US07253169B2
c. Synthesis of methyl 2-oxo-2-[2-benzylperhydropyridazinyl]acetate
20% TFA in CH2Cl2 was cooled to 0° C. and added dropwise to a solution of tert-butyl 2-benzylperhydropyridazinecarboxylate (13.34 g, 41.7 mmol) in 10 ml CH2Cl2. The mixture was stirred overnight. At this time, the mixture was cooled to 0° C. and 12.66 ml (125 mmol) triethylamine was added, followed by addition dropwise of methyl oxalyl chloride (5.62, 45.9 mmol) in 5 ml CH2Cl2. The mixture was allowed to stirred 2 hours at 0° C. and warmed up to room temperature overnight. The reaction was diluted with addition of CH2Cl2 and washed with water. The organic layer was dried over MgSO4, and filtered and concentrated. The crude product was further purified by silica chromatography to yield 9.2 g (72.4% yield) product as clear oil. 1H NMR (CDCl3, 400 MHz): δ 1.72 (m, 4H); 2.85 (m, 1H); 3.12 (m, 1H); 3.67 (s, 3H); 4.15 (m, 1H); 4.35 (m, 1H); 5.20 (m, 2H); 7.35 (m, 5H)

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 2-benzylperhydropyridazinecarboxylate | 41.7 mmol, 13.34 g | C(C1=CC=CC=C1)N1NCCCC1C(=O)OC(C)(C)C | C16H24N2O2
reactant | triethylamine | 125 mmol, 12.66 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | methyl 2-oxo-2-[2-benzylperhydropyridazinyl]acetate | 9.2 g, 72.4% yield | O=C(C(=O)OC)C1N(NCCC1)CC1=CC=CC=C1 | C14H18N2O3
